US04187305
(a) 2-Cyclopropylamino-4-methylamino-6-amino-s-triazine
A mixture of 12.7 g of 2-cyclopropylamino-4-methylamino-6-chloro-s-triazine, 17.4 g of 28% aqueous ammonia solution and 30 ml of dioxan is heated at 140° C. in an autoclave for 4 hours. After cooling, the reaction mixture is poured into 350 ml of a solution, which has been cooled to 0° C., of potassium carbonate in water and extracted with 1:1 benzene/ether. After drying over sodium sulfate, the solvents are removed in vacuo and the residue is recrystallised from isopropanol/hexane; melting point 159°-162° C.

reactant | 2-cyclopropylamino-4-methylamino-6-chloro-s-triazine | 12.7 g | C1(CC1)NC1=NC(=NC(=N1)NC)Cl | C7H10ClN5
reactant | ammonia | 17.4 g | N | H3N
reactant | dioxan | 30 ml | O1CCOCC1 | C4H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2-Cyclopropylamino-4-methylamino-6-amino-s-triazine | C1(CC1)NC1=NC(=NC(=N1)NC)N | C7H12N6
